US08017646B2
Following the procedure described in example 2, but starting from 3-(4-benzyloxy-3-methoxyphenyl)prop-2-en-1-ol (600 mg), potassium hydroxide (308 mg 85% wt) and 1-(3-chloropropyl)piperidine, hydrochloride (440 mg) in dimethylsufoxide (5 mL) affords 740 mg of trans-1-{3-[3-(4-benzyloxy-3-methoxyphenyl)-allyloxy]-propyl}piperidine containing 28% wt/wt DMSO used without any further purification. 3-(4-benzyloxy-3-methoxyphenyl)prop-2-en-1-ol can be prepared according to S. V. Reddy et al Chem. Lett. 32(11) 1038-9 (2003) or W. Gu et al Tetrahedron Lett. 41(32) 6079-82 (2000).

reactant | 3-(4-benzyloxy-3-methoxyphenyl)prop-2-en-1-ol | 600 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=CCO)OC | C17H18O3
reactant | potassium hydroxide | 308 mg | [OH-].[K+]
reactant | 1-(3-chloropropyl)piperidine, hydrochloride | 440 mg | Cl.ClCCCN1CCCCC1
product | trans-1-{3-[3-(4-benzyloxy-3-methoxyphenyl)-allyloxy]-propyl}piperidine | 740 mg, 28% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)/C=C/COCCCN1CCCCC1)OC | C25H33NO3
